US09163027B2
2-{[2-(4-chloro-3-fluorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine
The title compound was prepared according to the experimentals described for Example 1 above from 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol and 4-chloro-3-fluorophenoxy-ethylbromide in 75% yield; EM (calc.): 352.1; MS (ESI) m/e: 353.0 (M+H)+.

reactant | 5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine-2-thiol | CC1=NC=2N(C(=C1)C)N=C(N2)S | C7H8N4S
reactant | 4-chloro-3-fluorophenoxy-ethylbromide | ClC1=C(C=C(OCCBr)C=C1)F | C8H7BrClFO
product | 2-{[2-(4-chloro-3-fluorophenoxy)ethyl]sulfanyl}-5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidine | 75% yield | ClC1=C(C=C(OCCSC2=NN3C(N=C(C=C3C)C)=N2)C=C1)F | C15H14ClFN4OS
